Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
bee venom protein (honey bee)
 
Attending: ___.
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
trach and G-tube placed ___

 
History of Present Illness:
"The patient is nonverbal at baseline and coming from his group
home where he reportedly had a witnessed tonic-clonic seizure. 
He
had a second witnessed seizure shortly before EMS arrived and
then had some brief contractures of his upper extremities that
may have been seizure activity as well on arrival to the
emergency department. Patient was noted to be hypoxic for EMS 
and
was placed on a nonrebreather." he was noted to have "roving 
eyes
and total lack of response to pain in all 4 extremities. Patient
given 2 mg of Ativan with no change. Patient then witnessed to
have a tonic-clonic seizure shortly thereafter" Was then
intubated for airway protection. 

ED note then notes that on reviewing area of CT ED physician
noted ___ along posterior of aspect of brain superior 
to
cerebellum. They spoke with radiology who felt that there was no
definite hemorrhage but would call back after reviewing further.
CT head report from ___ not available in the system for
view currently.

His work up at ___ included: CXR with no infiltrate, WBC 17,
negative stox, normal Chem7, LFTs. UA with ___ wbc.

He was transferred to ___ for further management. Here his 
labs
were significant for lactate of 3.2 that cleared to 0.9. Wbc to
13. UA 29 WBC. 

intubated unable to give ROS

 
Past Medical History:
esophageal stricture
acid reflux 
atrophic gastritis
?seizure disorder, this is not mentioned in his paperwork from
his group home, but he is listed as on keppra.                   


 
Social History:
___
Family History:
Unknown          
 
Physical Exam:
ADMISSION PHYSICAL:
==================
Vitals: 97.6 75 125/78 18 99% Intubation 
wt 50 kg

General: somnolent, intubated
HEENT: NC/AT, no scleral icterus noted. Does not have syndromic
facies. intubated
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

examined after off sedation for 10 min

opens eyes spont
does not reliably track
eyes dysconjugate.
left arm reaches towards ETT
withdraws briskly in all ext

hyperreflexic
nonfatiguable clonus

Neurologic:
-Mental Status: opens eyes spontaneously. Does not reliably
track, orient to loud stimuli. Left arm reaches for ETT in what
appears to be purposeful way. grimaces to noxious. does not
follow commands.

-Cranial Nerves:
eyes dysconjugate, no roving eye movements. Pupils 4->2 mm b/l.
VOR +. Corneals briskly reactive. no facial asymmetry at rest.
+cough

-Motor: Normal bulk, tone throughout. 
No adventitious movements, such as tremor, noted. 
briskly withdraws in all 4 extremities

-DTRs:
  ___ Tri ___ Pat Ach
L  3  3    3    3   3
R  3  3    3    3   3

pec jerk, suprapatellar, crossed adductor bilaterally.
nonfatiguable clonus bilaterally at ankles.

Plantar response was extensor bilaterally.

=============
DISCHARGE
GEN:  non-verbal, lying in bed, eyes open, NAD
HENNT: trach in place to trach collar 
CV: warm and well perfused 
RESP: breathing comfortably
GI: g-tube in place
EXT: WWP
NEURO: Alert, regards examiner, shakes hand, follows command to
lift legs
R pupil 5->4, left 3.5->2, Bilateral esotropia 
Spontaneous movement in all 4 extremities, but moving right 
upper
more briskly than left, both antigravity, legs move 
symmetrically
and antigravity 

 
Pertinent Results:
ADMISSION LABS: 
===============

___ 07:42PM   TYPE-ART PO2-132* PCO2-30* PH-7.50* TOTAL 
CO2-24 BASE XS-1
___ 07:42PM   LACTATE-0.8
___ 07:42PM   freeCa-1.06*
___ 06:15PM   TYPE-ART TIDAL VOL-250 PEEP-5 PO2-145* 
PCO2-76* PH-7.18* TOTAL CO2-30 BASE XS--1 AS/CTRL-ASSIST/CON 
INTUBATED-INTUBATED
___ 06:15PM   GLUCOSE-88 LACTATE-0.6 NA+-140 K+-3.5 CL--105
___ 06:15PM   O2 SAT-97
___ 06:15PM   freeCa-1.16
___ 06:15PM   freeCa-1.16
___ 06:00PM   CALCIUM-7.7* PHOSPHATE-3.1 MAGNESIUM-1.6
___ 06:00PM   WBC-10.2* RBC-4.28* HGB-13.0* HCT-41.0 MCV-96 
MCH-30.4 MCHC-31.7* RDW-12.2 RDWSD-42.9
___ 06:00PM   NEUTS-63.4 ___ MONOS-7.4 EOS-2.6 
BASOS-0.2 IM ___ AbsNeut-6.44* AbsLymp-2.64 AbsMono-0.75 
AbsEos-0.26 AbsBaso-0.02
___ 06:00PM   PLT COUNT-141*
___ 09:02AM   TYPE-ART RATES-/18 TIDAL VOL-380 PEEP-5 O2-30 
PO2-145* PCO2-43 PH-7.37 TOTAL CO2-26 BASE XS-0 
INTUBATED-INTUBATED VENT-SPONTANEOU
___ 09:02AM   LACTATE-0.9
___ 09:02AM   O2 SAT-97
___ 08:30AM URINE  HOURS-RANDOM
___ 08:30AM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:30AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 08:30AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:30AM URINE  RBC-50* WBC-29* BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 08:30AM URINE  HYALINE-1*
___ 08:30AM URINE  MUCOUS-RARE*
___ 08:25AM   GLUCOSE-92 UREA N-25* CREAT-0.9 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-108 TOTAL CO2-21* ANION GAP-12
___ 08:25AM   estGFR-Using this
___ 08:25AM   ALT(SGPT)-16 AST(SGOT)-38 CK(CPK)-1530* ALK 
PHOS-93 TOT BILI-0.5
___ 08:25AM   cTropnT-<0.01
___ 08:25AM   ALBUMIN-3.8 CALCIUM-8.2* PHOSPHATE-2.0* 
MAGNESIUM-1.6
___ 08:25AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:25AM   WBC-13.8* RBC-4.17* HGB-13.1* HCT-39.8* 
MCV-95 MCH-31.4 MCHC-32.9 RDW-12.1 RDWSD-42.0
___ 08:25AM   NEUTS-78.6* LYMPHS-13.0* MONOS-7.3 EOS-0.4* 
BASOS-0.2 IM ___ AbsNeut-10.82* AbsLymp-1.79 AbsMono-1.01* 
AbsEos-0.05 AbsBaso-0.03
___ 08:25AM   ___ PTT-25.2 ___
___ 08:25AM   PLT COUNT-143*
___ 08:19AM   ___ PO2-180* PCO2-27* PH-7.44 TOTAL 
CO2-19* BASE XS--3 COMMENTS-GREENTOP
___ 08:19AM   LACTATE-3.2*

IMAGING: 
========

___ EEG:
This is an abnormal continuous ICU EEG monitoring study due to 
the presence of numerous brief electrographic seizures  

___ CXR:
Endotracheal tube terminating 4.4 cm above the level of the
carina.  Tubing is seen coiled over the neck, which may 
represent
oropharyngeal coiling of an orogastric tube.  No acute
intrathoracic process.

___ CTA Head/Neck:
1.  Dental amalgam streak artifact limits study. 
2. No evidence of acute intracranial hemorrhage, large
territorial infarct. Please note MRI of the brain is more
sensitive for the detection of acute infarct. 
3.  Patent circle of ___ without definite evidence of
stenosis,occlusion,or aneurysm. 
4. Nonocclusive probable atherosclerotic narrowing of left
vertebral artery origin narrowing. 
5. Otherwise, patent bilateral cervical carotid and vertebral
arteries without definite evidence of stenosis, occlusion, or
dissection. 
6. No evidence of dural venous sinus thrombosis. 
7. Nonspecific patchy consolidations in bilateral lung fields. 
If clinically indicated, consider dedicated chest imaging for
further evaluation. 8. 14 x 6 mm collection of air in the right
paratracheal region, which may be iatrogenic.  Attention on
follow-up on chest x-ray. 
9. The nasogastric tube appears to descent towards the right. 
Consider checking location of the nasogastric tube.

___ EEG:
presence of numerous brief right frontotemporal electrographic 
seizures 

___ MRI Head:
1. No acute intracranial contents. Parenchymal atrophy. 
2. Symmetric mucosal enhancement, stranding oropharynx, may be
reactive, inflammatory, or other etiology, incompletely
visualized. 
3. Abnormal left globe, see above.

___ CXR:
No prior chest imaging available. 
ET tube is in standard placement.  Nasogastric drainage tube 
ends
in the upper portion of a nondistended stomach.  
Left lung and hemithorax are substantially smaller than the
right, but I do not see discrete atelectasis or evidence of 
prior
surgery.  No focal abnormality is seen in either lung.  Pleural
effusion is small on the left if any.  Cardiomediastinal and
hilar contours are normal. 
Although no acute or other chest wall lesion is seen,
conventional chest radiographs are not sufficient for detection
or characterization of most such abnormalities. If the
demonstration of trauma or other soft tissue abnormality 
involving the chest wall is clinically warranted, the location 
of
any referable focal findings  should be clearly marked and 
imaged
with either bone detail radiographs or Chest CT scanning.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with developemental delay (non 
verbal at baseline) with possible seizure disorder whom 
presented with generalized tonic clonic seizures and was found 
to be in NCSE whose course was complicated by slow weaning from 
the ventilator requiring tracheostomy and PEG tube placement who 
has not yet returned to baseline and is now comfort measures 
only.  

#Nonconvulsive Status Epilepticus
He presented after possible GTC. cvEEG initially showed multiple 
non-convulsive events, followed by a convulsive event and 
eventually progressed into NCSE. He was loaded and trialed on 
multiple AEDs without success and eventually required intubation 
with phenobarbital and midazolam and propofol gtts. After burst 
suppression was achieved he was eventually weaned down off of 
his AEDs and will be discharged on phenobarbital and ***(maybe 
lacosamide). Etiology unclear, but did not seem to be infectious 
(no sustained leukocytosis, no fevers, normal CSF, no 
consolidation on CXR, UCx final negative, BCx negative), no 
ischemia or inflammation MRI, paraneoplasic antibodies negative. 
His mental status has improved and he is no longer 
encephalopathic. He regards examiner and will wave hello. He is 
non-verbal at baseline.

#Respiratory distress with recurrent aspiration
Initially intubated for airway protection in setting of NCSE, 
but was unable to be weaned from the ventilator so tracheostomy 
and PEG was placed on ___. He has subsequently been weaned 
down to trach collar with humidified air. Patient repeatedly has 
aspiration events with desaturation and respiratory distress. 
There was concern for trachea-esophageal fistula due to TF 
coming out of tracheostomy. CT chest and EGD did not show any 
evidence of fistula. Continue humidified air, morphine and 
Ativan PRN for symptomatic management and comfort.

#Deep venous thrombosis: 
Patient with right sided DVT secondary to PICC-line leading to 
removal of the line.  He was treated with anticoagulation until 
he was made comfort measures only.

#Code status
Patient was made DNR/DNI on ___ due to persistent ventilator 
dependence. The patient's guardian and sister, ___, 
applied for expanded guardianship to make the patient CMO which 
was approved on ___. He is no longer ventilator dependent, 
but is dependent on artificial nutrition. Due to deconditioning, 
severity of brain disease, he is not at his baseline and it will 
be difficult to get him back to a quality of life is such that 
she believes he would enjoy. We are now focused on his comfort 
with feeding for pleasure, reduction in medications without 
prolongation of life through artificial feeding.

Transitional Issues:
-Continue comfort care of eating for pleasure, humidified air 
for tracheostomy, morphine, Ativan as needed for pain, 
respiratory distress, scopolamine, glycopyrolate for secretions
-Wean AEDs as appropriate. When patient becomes less alert, plan 
to transition to Ativan around the clock. 
-Minimize supplemental fluid intake. Will no longer provide 
artificial nutrition

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 250 mg PO QAM 
2. LevETIRAcetam 500 mg PO QPM 
3. PARoxetine 20 mg PO QAM 
4. PARoxetine 40 mg PO QPM 
5. ClonazePAM 1 mg PO QID 
6. Polyethylene Glycol 17 g PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
9. Simethicone 80 mg PO QID:PRN abdominal cramping 
10. EpiPen (EPINEPHrine) 0.3 mg/0.3 mL injection ASDIR bee sting 

11. LORazepam 2 mg PO DAILY:PRN anxiety 
12. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
13. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PR Q6H:PRN pain or fever 
RX *acetaminophen 650 mg 1 suppository(s) rectally every 6 hours 
as needed Disp #*12 Suppository Refills:*3 
2.  Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H:PRN dry eyes 
RX *propylene glycol-glycerin [Artificial Tears(glycerin-peg)] 
0.3 %-1 % 1 gtt in each eye every 1 hour as needed Disp #*1 
Bottle Refills:*3 
3.  Bisacodyl ___ID:PRN Constipation - First Line 
RX *bisacodyl 10 mg 1 suppository(s) rectally twice daily as 
neeed Disp #*12 Suppository Refills:*4 
4.  GuaiFENesin 5 mL PO Q6H:PRN cough 
RX *guaifenesin [Cough Syrup] 100 mg/5 mL 5 mL per G tube ever 6 
hours Disp ___ Milliliter Milliliter Refills:*3 
5.  Haloperidol 1 mg IV Q4H:PRN nausea/vomiting or agitation 
RX *haloperidol 1 mg 1 tablet(s) per G tube every 4 hours as 
needed Disp #*30 Tablet Refills:*3 
6.  Hyoscyamine 0.125 mg SL Q4H:PRN excess secretions 
RX *hyoscyamine sulfate 0.125 mg 1 tablet(s) sublingually every 
4 hours as needed Disp #*100 Tablet Refills:*3 
7.  LACOSamide 100 mg PO BID 
RX *lacosamide [Vimpat] 10 mg/mL 10 solution(s) per G tube every 
12 hours Disp #*200 Milliliter Milliliter Refills:*3 
8.  LORazepam Oral Solution 1 mg PO Q2H:PRN anxiety or agitaiton 

RX *lorazepam 2 mg/mL 1 mg by mouth every 2 hours as needed 
Refills:*3 
9.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL 5 mg 
PO Q1H:PRN pain or dyspnea 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 5 mg by mouth 
every 1 hour as needed Refills:*5 
10.  PHENObarbital 48.6 mg PO Q8H 
RX *phenobarbital 97.2 mg 0.5 (One half) tablet(s) per G tube 
every 8 hours Disp #*60 Tablet Refills:*3 
11.  Scopolamine Patch 1 PTCH TD Q72H 
RX *scopolamine base 1 mg/3 day apply patch every 3 days Disp 
#*4 Patch Refills:*5 
12.  Acetaminophen 650 mg NG Q4H:PRN mild pain,tactile fever 
RX *acetaminophen 325 mg 2 tablet(s) per G tube every 6 hours as 
needed Disp #*30 Tablet Refills:*5 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Nonconvulsive status epilepticus

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted because you were having a lot of seizures, 
which required a lot of medications stop them. Because these 
medications are sedating, you were intubated (a breathing tube 
was put down your throat) to help you breathe. It was difficult 
to wean you off the ventilator, so a tracheostomy and feeding 
tube were placed so that we could get the tube out of your 
mouth. Since then, you have been slowly recovering, but you are 
not back to your normal self. We will continue to provide you 
with care to keep you comfortable.

Thank you for involving us in your care.

Sincerely,

___ Neurology
 
Followup Instructions:
___